US06552049B2
[8-Methyl-2,3dihydrofuro[3,2-f][1,4]benzodioxin-2-yl]methanol
A solution of 0.40 g (1.6 mmole) of (3S)-5-(2-chloro-2-propenyl)-3-(hydroxymethyl)-2,3-dihydro-1,4-benzodioxin-6-ol in 70 mL of trifluoroacetic acid was stirred at room temperature for 26 hours. The solvent was then removed in vacuum and replaced with 100 mL of methanol. Potassium carbonate (3.0 g, 2.2 mmole) was added and the mixture stirred for an additional 1.5 hours at room temperature. The mixture was then filtered and the filtrate concentrated to a brown residue in vacuum. The residue was column chromatographed on silica gel with methylene chloride as eluant to give 0.20 g (60%) of the (S)-enantiomer of the title compound as a yellow oil. 1H-NMR (d6-DMSO): doublet 6.94 δ (1H); doublet 6.71 δ (1H); singlet 6.48 δ (1H); triplet 5.07 δ (1H); doublet of doublets 4.30 δ (1H); multiplet 4.22 δ (1H); multiplet 4.00 δ (1H); multiplet 3.65 δ (2H); singlet 2.38 δ (3H).

reactant | (3S)-5-(2-chloro-2-propenyl)-3-(hydroxymethyl)-2,3-dihydro-1,4-benzodioxin-6-ol | 1.6 mmole, 0.40 g | ClC(CC1=C(C=CC=2OC[C@@H](OC21)CO)O)=C | C12H13ClO4
reactant | Potassium carbonate | 2.2 mmole, 3.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | trifluoroacetic acid | 70 mL | FC(C(=O)O)(F)F | C2HF3O2
product | [8-Methyl-2,3dihydrofuro[3,2-f][1,4]benzodioxin-2-yl]methanol | CC1=CC2=C(C=CC=3OCC(OC32)CO)O1 | C12H12O4
